US07601714B2
5-Bromo-2,4-dichloropyrimidine (1.1 g, 4.83 mmol) was dissolved in DMA (25 mL). To this solution was added tert-butyl-trans-4-aminomethylcyclohexylcarbamate hydrochloride (1.54 g, 5.80 mmol), followed by DIEA (1.98 mL, 11.4 mmol). The reaction was stirred at 25° C. for 18 h. The reaction was worked up by removal of the volatiles in vacuo. The crude was purified via flash chromatography (SiO2, 10-25% EtOAc-Hexanes) to afford 1.32 g (65%) of {4-[(5-bromo-2-chloro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester.

reactant | 5-Bromo-2,4-dichloropyrimidine | 4.83 mmol, 1.1 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tert-butyl-trans-4-aminomethylcyclohexylcarbamate hydrochloride | 5.80 mmol, 1.54 g | Cl.C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CN)=O
reactant | DIEA | 11.4 mmol, 1.98 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 25 mL | CC(=O)N(C)C | C4H9NO
product | {4-[(5-bromo-2-chloro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester | 1.32 g, 65% | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1Br)Cl)=O | C16H24BrClN4O2
